US07507740B2
(i) Production of 3-chloro-4-{4-[3-(1H-imidazol-1-yl)propyl]phenoxy}nitrobenzene
To a solution of 4-[3-(1H-imidazol-1-yl)propyl]phenol (405 mg) and 3-chloro-4-fluoronitrobenzene (370 mg) in N,N-dimethylformamide (4 mL) was added potassium carbonate (415 mg), and the mixture was stirred at room temperature for 16 hrs. Under ice-cooling, water was added and the mixture was extracted with ethyl acetate. The extract washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by basic silica gel column chromatography (eluent, ethyl acetate:hexane=80:20→100:0) to give the title compound (669 mg) as an oil.

reactant | 4-[3-(1H-imidazol-1-yl)propyl]phenol | 405 mg | N1(C=NC=C1)CCCC1=CC=C(C=C1)O | C12H14N2O
reactant | 3-chloro-4-fluoronitrobenzene | 370 mg | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-chloro-4-{4-[3-(1H-imidazol-1-yl)propyl]phenoxy}nitrobenzene | 669 mg | ClC=1C=C(C=CC1OC1=CC=C(C=C1)CCCN1C=NC=C1)[N+](=O)[O-] | C18H16ClN3O3
